US04002638
A mixture of 20 parts of 2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one, 400 volume parts of acetic acid and 15 parts of 5% palladium-on-carbon is hydrogenated at atmospheric pressure and temperature under stirring. After 2600 volume parts of hydrogen is absorbed, the catalyst is removed by filtration. The filtrate is concentrated under reduced pressure and the residue is treated with diethyl ether to give 2,5,6,11-tetrahydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one as crystals. Recrystallization from ethanol gives colorless plates melting at 253° - 261° C.

reactant | 2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one | N=1NC(N2C1CC1=C(C=C2)C=CC=C1)=O | C11H9N3O
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,5,6,11-tetrahydro-3H-s-triazolo[3,4-b][3]benzazepin-3-one | N=1NC(N2C1CC1=C(CC2)C=CC=C1)=O | C11H11N3O
